US07153854B2
A mixture of 5-[4-(3-chlorophenyl)-7-ethyl-2-phenylpyrrolo[1,2-b]pyridazin-3-yl]-1-pentanol (65 mg), trimethyloxonium tetrafluoroborate (275 mg) and 2,6-di-t-butyl-4-methylpyridine (47.8 mg) in 1,2-dichloroethane (3 mL) was stirred at ambient temperature for 4 hours. The solution was washed with water, 1N hydrochloric acid, water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (20:1–5:1) to give 4-(3-chlorophenyl)-7-ethyl-3-(5-methoxypentyl)-2-phenylpyrrolo[1,2-b]pyridazine as an yellow oil (60 mg).

reactant | 5-[4-(3-chlorophenyl)-7-ethyl-2-phenylpyrrolo[1,2-b]pyridazin-3-yl]-1-pentanol | 65 mg | ClC=1C=C(C=CC1)C=1C=2N(N=C(C1CCCCCO)C1=CC=CC=C1)C(=CC2)CC | C26H27ClN2O
reactant | trimethyloxonium tetrafluoroborate | 275 mg | F[B-](F)(F)F.C[O+](C)C
reactant | 2,6-di-t-butyl-4-methylpyridine | 47.8 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | 4-(3-chlorophenyl)-7-ethyl-3-(5-methoxypentyl)-2-phenylpyrrolo[1,2-b]pyridazine | 60 mg | ClC=1C=C(C=CC1)C=1C=2N(N=C(C1CCCCCOC)C1=CC=CC=C1)C(=CC2)CC | C27H29ClN2O
